US06720319B2
N-(4-cyano-1-methyl-piperidin-4-yl)-2-(4-trifluoromethyl-pyrimidin-2-ylamino)-3-cyclohexyl-propionamide.
The title compound was prepared from 2-chloro-4-trifluoromethyl pyrimidine and 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide according to the procedure from Example 19. MS, m/z 439.5=M+1.

reactant | 2-chloro-4-trifluoromethyl pyrimidine | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide | NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1 | C16H28N4O
product | N-(4-cyano-1-methyl-piperidin-4-yl)-2-(4-trifluoromethyl-pyrimidin-2-ylamino)-3-cyclohexyl-propionamide | C(#N)C1(CCN(CC1)C)NC(C(CC1CCCCC1)NC1=NC=CC(=N1)C(F)(F)F)=O | C21H29F3N6O
